US05627182
e) 3-Tert-butoxycarbonyl-5(S)-(3-hydroxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine
3.7 g of 3-tert-butoxycarbonyl-5(S)-(3-benzyloxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine are hydrogenated in the presence of 1.0 g of 5% Pd/C in 50 ml of tetrahydrofuran for 15 minutes at room temperature and under normal pressure. The reaction mixture is filtered and concentrated by evaporation. The residue is purified by means of FC (140 g of silica gel, ethyl acetate/hexane=1:2). The title compound is obtained: Rf (ethyl acetate/hexane=1:2)=0.28.

reactant | 3-tert-butoxycarbonyl-5(S)-(3-benzyloxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine | 3.7 g | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)C[C@H](COCC1=CC=CC=C1)C(C)C)(C)C | C40H63NO7
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
catalyst | Pd/C | 1.0 g | [Pd] | Pd
product | 3-Tert-butoxycarbonyl-5(S)-(3-hydroxy-2(S)-isopropyl-propyl)-4(S)-{2(S)-isopropyl-3-[4-methoxy-3-(3-methoxypropyloxy)-phenyl]-propyl}-2,2-dimethyl-1,3-oxazolidine | C(C)(C)(C)OC(=O)N1C(O[C@H]([C@@H]1C[C@H](CC1=CC(=C(C=C1)OC)OCCCOC)C(C)C)C[C@H](CO)C(C)C)(C)C | C33H57NO7
